US03932487
Under agitation at 20° , 48 g. of Br2, dissolved in 500 ml. of CHCl3, is added dropwise within 2 hours to a solution of 100 g. of 2-carbethoxy-2-(6-carbethoxyhexyl)-cyclopentanone in 1 l. of CHCl3. The solvent is distilled off, the residue is taken up in a mixture of 4 l. of ethanol, l kg. of H2SO4 (density: 1.84), and 100 ml. of H2O, refluxed for 18 hours under N2 and poured on 10 kg. of ice after cooling. The reaction mixture is extracted three times with respectively 5 l. of ether, the combined ether extracts are dried over Na2SO4, the solvent is distilled off, and chromatographic purification of the residue (silica gel/petroleum ether : ether =1 : 1) yields 2-(6-carbethoxyhexyl)- 2-cyclopentenone.

reactant | Br2 | BrBr | Br2
reactant | 2-carbethoxy-2-(6-carbethoxyhexyl)-cyclopentanone | C(=O)(OCC)C1(C(CCC1)=O)CCCCCCC(=O)OCC | C17H28O5
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
product | 2-(6-carbethoxyhexyl)- 2-cyclopentenone | C(=O)(OCC)CCCCCCC=1C(CCC1)=O | C14H22O3
